US04849408
Synthesis of Boc-trytophan
tryptophan sulfate (2.28 g, 10 mmole) was suspended in water (10 ml) and triethylamine (2.8 ml, 20 mmole) was added. Thereafter the solution thus obtained was diluted with dioxan (10 ml) and di-tert-butyl dicarbonate (2.4 ml, 10 mmole) added to the mixture with stirring on ice bath (cooling on ice). The mixture was then allowed to warm to ambient temperature. After 5 hours, second portions of triethylamine (1.4 ml, 10 mmole) and di-tert-butyl dicarbonate (1.2 ml. 5 mmole) were added while stirring was continued at ambient temperature overnight. The mixture was filtered and evaporated under reduced pressure. The residue was dissolved in chloroform (50 ml), the solution was dried over sodium sulfate and concentrated under reduced pressure to an oil which was crystallized from chloroform/acetone. Boc-tryptophan separated as a triethyl-amine-sulfate-salt.

reactant | tryptophan sulfate | 10 mmole, 2.28 g | S(=O)(=O)(O)O.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O
reactant | triethylamine | 20 mmole, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 10 mmole, 2.4 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10 mmole, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5 mmole, 1.2 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 10 ml | O | H2O
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | Boc-trytophan | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
